US07402585B2
5,7-Difluoroquinazolin-4(3H)one (2.73 g, 15 mmol) in dimethylformamide (20 ml) was reacted with isopropanol (1.26 ml, 16.4 mmol) and sodium hydride (1.8 g, 45 mmol) at 0° C. under argon. The mixture was stirred at ambient temperature for 14 hours, acidified with acetic acid and concentrated. The residue was washed with water and dried to yield 7-fluoro-5-isopropoxyquinazolin-4(3H)-one (3.17 g, 95% yield) as a beige solid:

reactant | 5,7-Difluoroquinazolin-4(3H)one | 15 mmol, 2.73 g | FC1=C2C(NC=NC2=CC(=C1)F)=O | C8H4F2N2O
reactant | isopropanol | 16.4 mmol, 1.26 ml | C(C)(C)O | C3H8O
reactant | sodium hydride | 45 mmol, 1.8 g | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-fluoro-5-isopropoxyquinazolin-4(3H)-one | 3.17 g, 95% yield | FC1=CC(=C2C(NC=NC2=C1)=O)OC(C)C | C11H11FN2O2
